US07169780B2
Step 6: Dimethyl-2-{[(amino-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}methylidene)amino]oxy}but-2-enedioate
Benzyl-(2S,4S)-2-[amino(hydroxyimino)methyl]-4-fluoropyrrolidine-1-carboxylate in chloroform was treated with dimethylacetylene dicarboxylate for 3 hours at 60° C. The chloroform was then concentrated to give the title compound as a 8:2 mixture of isomers.

reactant | Benzyl-(2S,4S)-2-[amino(hydroxyimino)methyl]-4-fluoropyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)F)C(=NO)N | C13H16FN3O3
reactant | dimethylacetylene dicarboxylate | COC(=O)C#CC(=O)OC | C6H6O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Dimethyl-2-{[(amino-{(2S,4S)-1-[(benzyloxy)carbonyl]-4-fluoropyrrolidin-2-yl}methylidene)amino]oxy}but-2-enedioate | COC(C(=CC(=O)OC)ON=C([C@H]1N(C[C@H](C1)F)C(=O)OCC1=CC=CC=C1)N)=O | C19H22FN3O7
